Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lidocaine
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is an ___ with PMH of Alzheimer's dementia, AF on 
xarelto, who presented with lethargy, LLQ abdominal pain. 
Patient is unable to provide history.  
 Per documentation in ___, patient was noted this morning by her 
caregivers to be more lethargic and with right sided facial/lip 
swelling. She also reportedly had decreased speech output, which 
is not her baseline. She reportedly had several weeks of NBNB 
emesis that occurred every couple of days.  
 In the ED, a code stroke was called due to concern for new 
slurred speech and asymmetric face with right facial droop. Per 
neurology note, felt to not be acute infarct and more likely 
toxic metabolic encephalopathy.  
 
 In the ED, initial VS were: 100.1 96 146/83 18 95% RA  
 Labs showed:  
 - 138 | 104 | 20  
 ---------------< 146  
 4.2 | 20 | 0.8  
 - 12.9 > 13.3/40.2 < 184  
 - UA with mod blood, 46 WBC, 13 RBC, <1 epi  
 - Urine tox: negative  
 - Lactate 1.6  
 - INR 1.4  
 Imaging showed:  
 - Wet read:  
 Noncon Head CT:  
 No evidence of acute hemorrhage, infarction, mass, or edema. No 
evidence of acute fracture.  
 
 CTA Head/neck:  
 No evidence of aneurysm. No evidence of carotid/vertebral 
stenosis.  
 - CT A/P  
 IMPRESSION:  
 Multiple wedge-shaped hypodensities in the right kidney are 
concerning for pyelonephritis. Correlation with urinalysis is 
recommended.  
 - CXR  
 Cardiomegaly without superimposed acute cardiopulmonary 
process.  
 
 Consults: neurology  
 Patient received: ceftriaxone  
 Transfer VS were: 98.5 93 150/109 18 97% RA  
 On arrival to the floor, patient is AOx1. She endorses lower 
abdominal pain.  

 
Past Medical History:
- Alzheimer's dementia - living in locked memory unit  
- Atrial fibrillation on xarelto  
- Hip replacement  

 
Social History:
___
Family History:
Unable to obtain.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: 99.6 132 / 90 R Lying ___ Ra  
GENERAL: NAD, mucus membranes dry  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple, no LAD, no JVD  
HEART: irregularly irregular, S1/S2, no murmurs, gallops, or 
rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, tender to palpation in suprapubic area  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox1, CN2-12 intact, strength ___ in b/l UE, moves 
bilateral lower extremities  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM
VS: 97.9 127/76 85 18 96 Ra  
GENERAL: sitting up in bed, smiling and well appearing
HEENT: anicteric sclera, moist mucosa
HEART: irregularly irregular, S1/S2, no murmurs, gallops, or 
rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender, no CVA tenderness
EXTREMITIES: no lower extremity edema 
PULSES: 2+ DP pulses bilaterally  
NEURO: responded to being asked how she is, but did not know
where she was or the date, she was interactive and followed
general commands, CN2-12 intact, strength ___ in b/l UE, moves
bilateral lower extremities, facial muscles symmetric   
 
 
Pertinent Results:
ADMISSION LABS
___ 03:15PM BLOOD WBC-12.9* RBC-4.62 Hgb-13.3 Hct-40.2 
MCV-87 MCH-28.8 MCHC-33.1 RDW-14.4 RDWSD-45.4 Plt ___
___ 03:15PM BLOOD ___ PTT-27.8 ___
___ 03:18PM BLOOD Creat-0.8
___ 07:06AM BLOOD Calcium-8.9 Phos-2.3* Mg-2.0
___ 03:25PM BLOOD Glucose-146* Na-138 K-4.2 Cl-104 
calHCO3-20*
___ 04:45PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 04:45PM URINE Blood-MOD* Nitrite-POS* Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.5* Leuks-SM*
___ 04:45PM URINE RBC-13* WBC-46* Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 04:45PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

DISCHARGE LABS
___ 07:10AM BLOOD WBC-8.1 RBC-4.63 Hgb-13.3 Hct-39.4 MCV-85 
MCH-28.7 MCHC-33.8 RDW-13.4 RDWSD-41.9 Plt ___
___ 07:10AM BLOOD Glucose-100 UreaN-17 Creat-0.7 Na-137 
K-3.9 Cl-98 HCO3-22 AnGap-17
___ 07:10AM BLOOD Calcium-9.0 Phos-3.3 Mg-2.0

MICROBIOLOGY
___ 4:45 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      PROTEUS MIRABILIS.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PROTEUS MIRABILIS
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING
CXR ___:
IMPRESSION:    
Cardiomegaly without superimposed acute cardiopulmonary process. 


CT AP ___:
IMPRESSION:    
Findings concerning for right renal pyelonephritis.  Correlation 
with 
urinalysis is recommended. 
  
CTA HEAD/NECK ___:
IMPRESSION: 
1. No acute hemorrhage.  No CT evidence for an acute major 
vascular 
territorial infarction.  Extensive supratentorial white matter 
hypodensities, nonspecific but likely sequela of chronic small 
vessel ischemic disease, limit evaluation for acute white matter 
infarcts. 
2. No evidence for flow-limiting stenosis in the cervical or 
major 
intracranial arteries. 
3. Large periapical lucency associated with ___ 8, which appears 
to be status post root canal or implant, with dehiscence of the 
lingual and buccal cortex.  
Please correlate with prior dental history and dental exam. 

 
Brief Hospital Course:
Ms. ___ is an ___ year old woman with atrial fibrillation on 
Xarelto and Alzheimer's dementia who presents with 
pyelonephritis. 

#Proteus Mirabilis Pyelonephritis: 
Presented with fevers, vomiting, leukocytosis and imaging 
showing right sided pyelonephritis. Patient was hemodynamically 
stable and well appearing. Urine cultures grew pan-sensitive 
proteus mirabilis. Ceftriaxone was started on ___, and changed 
to ciprofloxacin to complete a 2 week course. Last day of 
antibiotics ___.

#Right sided weakness
#Encephalopathy
#Alzheimer's dementia: 
Patien was initially altered with decreased speech and concern 
for right sided facial droop. Code stroke was called in ED, and 
CTA head/neck negative for acute stroke. Her symptoms and mental 
status improved to baseline with antibiotics.

#Atrial fibrillation: 
Continued home xarelto, digoxin and continue metoprolol but at 
fractionated dosing while in hospital.

#Depression
Continued home sertraline.

TRANSITIONAL ISSUES:
#Discharge antibiotics: ciprofloxacin last day ___
#CODE: DNR/DNI (MOLST in chart)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO DAILY:PRN Pain - Mild 
2. Acetaminophen 1000 mg PO QHS 
3. Metoprolol Succinate XL 125 mg PO DAILY 
4. Digoxin 0.125 mg PO DAILY 
5. Docusate Sodium 200 mg PO QHS 
6. Rivaroxaban 20 mg PO DAILY 
7. Sertraline 150 mg PO DAILY 
8. Cyanocobalamin 1000 mcg PO DAILY 
9. Ascorbic Acid ___ mg PO DAILY 
10. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
Last day ___  
2.  Acetaminophen 1000 mg PO DAILY:PRN Pain - Mild  
3.  Acetaminophen 1000 mg PO QHS  
4.  Ascorbic Acid ___ mg PO DAILY  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  Digoxin 0.125 mg PO DAILY  
7.  Docusate Sodium 200 mg PO QHS  
8.  Metoprolol Succinate XL 125 mg PO DAILY  
9.  Rivaroxaban 20 mg PO DAILY  
10.  Sertraline 150 mg PO DAILY  
11.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pyelonephritis
Toxic metabolic encephalopathy

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Dr. ___,

___ was a pleasure caring for you during your hospitalization at 
the ___.

WHY WAS I ADMITTED?
============================
- You were having abdominal pain and vomiting. You were also 
confused and not acting like yourself.

WHAT WAS DONE FOR ME IN THE HOSPITAL?
=======================================
- You had a CT scan of your abdomen and labs done that showed 
you had a kidney infection. You were started on antibiotics 
through the IV. The antibiotic was switched to an oral 
antibiotic before you left.
- You also had a CT scan of your head, and this showed there is 
no new stroke or brain bleed. Your confusion was probably caused 
by the infection, and improved with antibiotics.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
===========================================
- Continue to take the antibiotic, ciprofloxacin, until 
___.

WHAT ARE REASONS I SHOULD RETURN TO THE HOSPITAL?
===================================================
- If you have fevers, chills, new abdominal or back pain, new or 
worsening confusion.

We wish you the best of luck in your health!

Warmly,
Your ___ Care Team
 
Followup Instructions:
___